US04615968
23.2 g (0.2 mole) of 1,6-diaminohexane and 60.8 g (0.4 mole) of 1-cyclohexene-1,2-dicarboxylic anhydride are dissolved in 350 ml of toluene, and the water formed is separated off under reflux in the course of 20 hours. 300 ml of toluene are then distilled off, and the precipitated product is filtered off, washed with toluene/cyclohexane and recrystallised from 600 ml of methanol. The resulting white crystalline proudct is dried at 60° C. in vacuo in the course of 24 hours, affording 50 g (64.1% of theory) of N,N'-hexamethylenebis-3,4,5,6-tetrahydrophthalimide; melting point 123°-124° C. Elemental analysis:

reactant | 1,6-diaminohexane | 0.2 mole, 23.2 g | NCCCCCCN | C6H16N2
reactant | 1-cyclohexene-1,2-dicarboxylic anhydride | 0.4 mole, 60.8 g | C12=C(CCCC1)C(=O)OC2=O | C8H8O3
reactant | water | O | H2O
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | N,N'-hexamethylenebis-3,4,5,6-tetrahydrophthalimide | 50 g, 64.1% | C1(C2=C(C(N1CCCCCCN1C(C3=C(C1=O)CCCC3)=O)=O)CCCC2)=O | C22H28N2O4
